US07795249B2
To a slurry of ethyl 5-(2-cyanophenyl)thiophene-2-carboxylate (1.09 gm 4.24 mmol) in MeOH (8 mL) was added (BOC)2O (1.11 g, 5.08 mmol) and Raney Nickel (3.6 mL). The reaction mixture was allowed to stir at rt under an atmosphere of hydrogen overnight and then filtered through celite. The filtrate was concentrated and the residue was purified by column chromatography to give ethyl 5-(2-{[(tert-butoxycarbonyl)-amino]methyl}phenyl)thiophene-2-carboxylate (1.32 g, 86%).

reactant | ethyl 5-(2-cyanophenyl)thiophene-2-carboxylate | 4.24 mmol, 1.09 gm | C(#N)C1=C(C=CC=C1)C1=CC=C(S1)C(=O)OCC | C14H11NO2S
reactant | (BOC)2O | 5.08 mmol, 1.11 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 8 mL | CO | CH4O
catalyst | Raney Nickel | 3.6 mL | [Ni] | Ni
product | ethyl 5-(2-{[(tert-butoxycarbonyl)-amino]methyl}phenyl)thiophene-2-carboxylate | 1.32 g, 86% | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)C1=CC=C(S1)C(=O)OCC | C19H23NO4S
